US07420001B2
To 75 mg (0.3 mmol) of 5-acetyl-4-methoxy-3-methyl-benzofuran-2-carboxylic acid was added 1 mL of oxalyl chloride and the mixture was refluxed for 2.5 h in the presence of a catalytic amount of DMF, then the excess oxalyl chloride was removed under vacuum. The residue was dissolved in 1 mL of dichloromethane and was added to a mixture of 163 mg (0.46 mmol) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester and 2 mL of pyridine in an ice/water bath. The mixture was stirred at room temperature overnight. All the solvents were removed under vacuum. Column chromatography on silica gel gave 36 mg (20% yield) of (S)-2-(4′-{[5-(1-chloro-vinyl)-4-methoxy-3-methyl-benzofuran-2-carbonyl]-amino}-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester as an off-white solid.

reactant | 5-acetyl-4-methoxy-3-methyl-benzofuran-2-carboxylic acid | 0.3 mmol, 75 mg | C(C)(=O)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1OC | C13H12O5
reactant | oxalyl chloride | 1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 0.46 mmol, 163 mg | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C18H22N2O4S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | (S)-2-(4′-{[5-(1-chloro-vinyl)-4-methoxy-3-methyl-benzofuran-2-carbonyl]-amino}-biphenyl-4-sulfonylamino)-3-methyl-butyric acid methyl ester | 36 mg, 20% yield | COC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)C(=C)Cl)OC)=O | C31H31ClN2O7S
